US04110447
2.25 g of 3-p-biphenylyl-butylamine and 5 g of phthalic anhydride are heated at 120°for 90 minutes, cooled and worked up in the customary manner to give 1-phthalimido-3-p-biphenylyl-butane, m.p. 120°- 123°.

reactant | 3-p-biphenylyl-butylamine | 2.25 g | C1(=C(C=CC=C1)C(CCN)C)C1=CC=CC=C1 | C16H19N
reactant | phthalic anhydride | 5 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
product | 1-phthalimido-3-p-biphenylyl-butane | C1(C=2C(C(N1CCC(C)C1=C(C=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O | C24H21NO2
